US07989633B2
Methyl 5-(cyclobutylacetyl)-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate
50 mg (0.175 mmol) of methyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate are dissolved with 34.7 mg (0.227 mmol) of 4-amino-1-cyclobutylpent-3-en-2-one in 3 ml of ethanol and heated under reflux under argon for 24 h. The reaction mixture is purified by preparative HPLC. Concentration of the fractions results in 36 mg (43% of theory) of the title compound as a white solid.

reactant | methyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate | 0.175 mmol, 50 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)OC)C(C)=O | C16H14O5
reactant | 4-amino-1-cyclobutylpent-3-en-2-one | 0.227 mmol, 34.7 mg | NC(=CC(CC1CCC1)=O)C | C9H15NO
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | Methyl 5-(cyclobutylacetyl)-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate | C1(CCC1)CC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C=1C=CC=C2C(C=C(OC12)C)=O | C25H27NO5
